US05081131
N-(3-Dimethylaminopropyl)-N-(3-(1H-imidazol-1-yl)propyl)benz(cd)indol-2-amine
3(1H-imidazol-1-yl)propanoic acid is converted to its acid chloride which upon reaction with 3-dimethylaminopropylamine leads to N-(3-dimethylaminopropyl)-3-(1H-imidazol-1-yl)propanamide. Reduction with borane in tetrahydrofuran solution then gives N-(3-dimethylaminopropyl-N-3-(1H-imidazol-1yl))propanamine. Treatment of the latter compound with molar equivalents of benz(cd)indol-2-thiol and mercuric acetate in refluxing ethanol under the conditions of Example 55 then leads to the title compound.

reactant | 3(1H-imidazol-1-yl)propanoic acid | N1(C=NC=C1)CCC(=O)O | C6H8N2O2
reactant | N-(3-dimethylaminopropyl)-3-(1H-imidazol-1-yl)propanamide | CN(CCCNC(CCN1C=NC=C1)=O)C | C11H20N4O
reactant | borane | B | BH3
reactant | benz(cd)indol-2-thiol | N1=C(C2=C3C(C=CC=C13)=CC=C2)S | C11H7NS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | N-(3-Dimethylaminopropyl)-N-(3-(1H-imidazol-1-yl)propyl)benz(cd)indol-2-amine | CN(CCCN(C1=NC2=CC=CC=3C2=C1C=CC3)CCCN3C=NC=C3)C | C22H27N5
